US07371765B2
Using an analogous procedure to that described in Example 20, 4-chloro-6-cyano-7-(3-(4methylpiperazin-1-yl)propoxy)quinoline (150 mg, 0.44 mmol), (prepared as described for the starting material in Example 12), was reacted with 2,3-dimethyl-5-hydroxyindole (84 mg, 0.52 mmol), (Arch. Pharm. 1972, 305, 159), to give 6-cyano-4-(2,3-dimethylindol-5-yloxy)-7-(3-(4-methylpiperazin-1-yl)propoxy)quinoline (146 mg, 60%).

reactant | 4-chloro-6-cyano-7-(3-(4methylpiperazin-1-yl)propoxy)quinoline | 0.44 mmol, 150 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCN(CC1)C | C18H21ClN4O
reactant | 2,3-dimethyl-5-hydroxyindole | 0.52 mmol, 84 mg | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
product | 6-cyano-4-(2,3-dimethylindol-5-yloxy)-7-(3-(4-methylpiperazin-1-yl)propoxy)quinoline | 146 mg, 60% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCN(CC1)C)OC=1C=C2C(=C(NC2=CC1)C)C | C28H31N5O2
